US04496584
Synthesis of 6-amidino-2-naphthyl sorbate (Compound No. 9)
To a solution of 2.0 g of sorbic acid in 50 ml of anhydrous pyridine, while being cooled in ice, was added 4.4 g of DCC. After stirring for 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added to the mixture and further stirred overnight at room temperature. The precipitate was collected by filtration, washed with ethyl ether, then with acetone, dissolved in methanol, and filtered to remove the insolubles. The filtrate was concentrated under reduced pressure and recrystallized from an ethanol-methanol mixture to yeild 2.4 g of colorless granular crystals 6-amidino-2-naphthyl sorbate methanesulfonate.

reactant | sorbic acid | 2.0 g | C(\C=C\C=C\C)(=O)O | C6H8O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl sorbate | C(\C=C\C=C\C)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C17H16N2O2
